US08084483B2
Triethylamine (0.11 mL, 0.786 mmol) and ethyl 2-bromoacetate (80 μL, 0.72 mmol) were added to a stirred solution of 5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol (0.2 g, 0.655 mmol) in dichloromethane (2.6 mL). The resulting mixture was stirred for 2 h. The crude reaction mixture was purified by SGC (0-50% EtOAc/Hexanes) to afford ethyl 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate as an off-white solid (0.246 g, 96%).

reactant | Triethylamine | 0.786 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromoacetate | 0.72 mmol, 80 μL | BrCC(=O)OCC | C4H7BrO2
reactant | 5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol | 0.655 mmol, 0.2 g | FC(C=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)CC)F | C15H13F2N3S
solvent | dichloromethane | 2.6 mL | ClCCl | CH2Cl2
product | ethyl 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 0.246 g, 96% | FC(C=1N(C(=NN1)SCC(=O)OCC)C1=CC=C(C2=CC=CC=C12)CC)F | C19H19F2N3O2S
